US04256739
425 mg of activated zinc powder are added to a solution of 425 mg (0.72 mmol) of 3-benzylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid p-nitrobenzyl ester in 40 ml of glacial acetic acid and the mixture is stirred vigorously for 2 hours at room temperature and under nitrogen. The solvent is removed in vacuo and the residue is stirred with ethyl acetate and filtered. The solution is extracted with aqueous sodium bicarbonate solution and water. The combined aqueous phases are washed with ethyl acetate, acidified with hydrochloric acid and extracted with ethyl acetate. The organic phase is dried over sodium sulphate, filtered and evaporated in vacuo. The residue is chromatographed on silica gel with toluene containing 10% of acetone and gives 3-benzylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid; [α]D20° =+19±1° (c=0.8; chloroform); IR spectrum (methylene chloride): characteristic bands at 5.61 and 5.90μ.

reactant | 3-benzylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid p-nitrobenzyl ester | 0.72 mmol, 425 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)SCC3=CC=CC=C3)C=C1 | C29H25N3O7S2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 425 mg | [Zn] | Zn
product | 3-benzylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid | C(C1=CC=CC=C1)SC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C22H20N2O5S2
